Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
L sided weakness
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ with PMH of HTN and anxiety who presented to the ED with 
left
arm and leg weakness.  Neurology was consulted regarding this
weakness.  Not a code stroke.

Patient stated that when she woke up on the morning of
presentation, her left leg buckled underneath her when she try 
to
get out of bed.  She could not stand up, and ended up falling to
the ground.  No head strike.  She was able to find a pole  to
hold onto.  Using this pole she was able to move from her 
bedroom
into the living room, where she proceeded to sit on the couch 
and
watch TV.  She noticed that her left arm felt weaker as well. 
She thought that the left leg weakness occurred because she
'slept on it the wrong way' and assumed that it would go away on
its own.  She fell asleep while watching TV on the couch.  When
she woke up sometime later, her left leg buckled again when she
tried to stand up.  However, she was able to dress herself. 
Since she did not want to take an ambulance, she presented to 
the
hospital using Lyft.  It took her a little while to get to the
hospital because her Lyft driver had taken a wrong turn
somewhere.

Patient states that she has never had these symptoms before.  
She
denies recent headache, fevers, chills, nausea, vomiting,
diarrhea, numbness, tingling, vision changes, or dizziness.  She
states that her symptoms of left arm and leg weakness were
persistent and did not fluctuate.  She states that she was
diagnosed with "borderline" hypertension, and was prescribed
medication.  She states that she did not take her medication on
day of presentation.  She states her family doctor is ___ at the ___.  She says her typical blood 
pressure
runs in the 170s.

 
Past Medical History:
Hypertension
Anxiety
Insomnia
 
Social History:
___
Family History:
Grandmother had aneurysm
Father has diabetes                            

 
Physical Exam:
ON ADMISSION: 
Physical Exam - 
Vitals: 98.0 HR 70 BP 200/84 18 96% RA 
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted
Pulmonary: Normal work of breathing.
Cardiac: Warm, well-perfused.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.

Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive. Language is fluent with intact 
comprehension. Normal prosody. There were no paraphasic errors. 
Able to name all items on the ___ stroke card with the exception
of hammock.  Able to read without difficulty able to describe
cookie picture without difficulty.  She speaks in a quiet voice
but that is her baseline per friend at bedside. There was no
evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. 
V: Facial sensation intact to light touch.
VII: Slight facial asymmetry noted; however friend at bedside
states that patient's face is her baseline.
VIII: Hearing intact to conversation.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. 

-Motor: Normal bulk and tone throughout.  Mild pronator drift
noted on the left. No adventitious movements, such as tremor or
asterixis noted.
  [Delt][Bic][Tri][ECR][FEx][IO][IP][Quad][Ham][TA][Gas]
L    5-   4+   4+   4+   4+  4+   5-   5   4+    5    5      
R    5    5    5    5    5    5   5    5   5     5    5    

-Sensory: No deficits to light touch, pinprick, temperature, 
vibration throughout. No extinction to DSS. Romberg absent. 

-Reflexes:
  [Bic] [Tri] [___] [Pat] [Ach]
L   2     3      3      2     1
R   2     3      3      2     1 
Plantar response was flexor bilaterally.

-Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF bilaterally.

-Gait: Deferred

UPON DISCHARGE
Physical Exam - 
Vitals: T 98.0 HR 72 BP 134/76 RR 18 97% RA 
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted
Pulmonary: Normal work of breathing.
Cardiac: Warm, well-perfused.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.

Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive. Language is fluent with intact 
comprehension. Normal prosody. There were no paraphasic errors. 
Able to name all items on the ___ stroke card with the exception
of hammock.  Able to read without difficulty able to describe
cookie picture without difficulty.  She speaks in a quiet voice
but that is her baseline per friend at bedside. There was no
evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. 
V: Facial sensation intact to light touch.
VII: Slight facial asymmetry noted; however L NLFF is chronic
VIII: Hearing intact to conversation.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. 

-Motor: Normal bulk and tone throughout.  left pronator drift, 
slight drift. No adventitious movements, such as tremor or 
asterixis noted.
  [Delt][Bic][Tri][WE][FF] [FE] [IO][IP][Quad][Ham][TA][Gas]
L    5-   5    5-  5-  5    5-   4+  5-   5-    5    4+   5   
R    5    5    ___    5    5   5    5     5    5    5

-Sensory: No deficits to light touch, pinprick, temperature, 
vibration throughout. No extinction to DSS. Romberg absent. 

-Reflexes:
  [Bic] [Tri] [___] [Pat] [Ach]
L   2     3      3      2     1
R   2     3      3      2     1 
Plantar response was flexor bilaterally.

-Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF bilaterally.

-Gait: wide based, steady, good arm swing
 
Pertinent Results:
___ 06:45PM   GLUCOSE-126* UREA N-10 CREAT-0.9 SODIUM-147 
POTASSIUM-3.6 CHLORIDE-108 TOTAL CO2-26 ANION GAP-13
___ 06:45PM   ALT(SGPT)-11 AST(SGOT)-17 LD(LDH)-195 ALK 
PHOS-102 TOT BILI-0.4
___ 06:45PM   ALBUMIN-4.2 CALCIUM-9.8 PHOSPHATE-3.2 
MAGNESIUM-1.8
___ 06:45PM   WBC-7.5 RBC-3.82* HGB-11.0* HCT-33.6* MCV-88 
MCH-28.8 MCHC-32.7 RDW-12.5 RDWSD-40.1
___ 06:45PM   PLT COUNT-215
___ 06:45PM   ___ PTT-29.1 ___
___ 06:41AM   %HbA1c-4.3 eAG-77
___ 02:48AM   cTropnT-<0.01
___ 10:15PM URINE  HOURS-RANDOM
___ 10:15PM URINE  UHOLD-HOLD
___ 10:15PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 10:15PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 10:15PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 10:15PM URINE  RBC-1 WBC-4 BACTERIA-FEW* YEAST-NONE 
EPI-0
___ 10:15PM URINE  HYALINE-1*
___ 10:15PM URINE  MUCOUS-RARE___ 10:00PM   GLUCOSE-116* UREA N-16 CREAT-1.0 SODIUM-144 
POTASSIUM-3.7 CHLORIDE-108 TOTAL CO2-23 ANION GAP-13
___ 10:00PM   estGFR-Using this
___ 10:00PM   cTropnT-<0.01
___ 10:00PM   CALCIUM-10.0 PHOSPHATE-2.9 MAGNESIUM-1.8 
CHOLEST-222*
___ 10:00PM   TRIGLYCER-87 HDL CHOL-122 CHOL/HDL-1.8 
LDL(CALC)-83
___ 10:00PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 10:00PM   WBC-6.8 RBC-3.87* HGB-11.2 HCT-34.5 MCV-89 
MCH-28.9 MCHC-32.5 RDW-12.3 RDWSD-39.6
___ 10:00PM   NEUTS-66.1 ___ MONOS-7.9 EOS-0.7* 
BASOS-0.4 IM ___ AbsNeut-4.51 AbsLymp-1.67 AbsMono-0.54 
AbsEos-0.05 AbsBaso-0.03
___ 10:00PM   PLT COUNT-207
___ 10:00PM   ___ PTT-30.1 ___

IMAGING
MRI-B ___ - 
1. Acute to subacute infarct in the posterior limb of the right 
internal 
capsule. 
2. Chronic lacunar infarcts in the left thalamus and right 
subinsular region. 
3. Periventricular and subcortical white matter signal changes, 
nonspecific 
and likely sequelae of chronic ischemic microvascular disease. 

CTA ___. No acute large territory infarct or intracranial hemorrhage. 
2. Incidental 4 mm right upper lobe nodule. 
3. Patent circle of ___ without definite evidence of 
stenosis,occlusion,or 
aneurysm. 
4. Patent bilateral cervical carotid and vertebral arteries 
without definite 
evidence of stenosis, occlusion, or dissection. 
5. Chronic lacunar infarct in the left thalamus. 
6. Periventricular and subcortical white matter changes, 
nonspecific and 
likely sequelae of chronic microangiopathy. 

ECHO:
CONCLUSION: The left atrial volume index is normal. A prominent 
Chiari network is seen in the right atrium (normal variant). 
There is mild symmetric left ventricular hypertrophy with a 
normal cavity size. There is normal regional and global left 
ventricular systolic function. Quantitative biplane left 
ventricular ejection fraction is 60 % (normal 54-73%).Left 
ventricular cardiac index is low normal (2.0-2.5 L/min/m2). 
There is normal diastolic function. Normal right ventricular 
cavity size with normal free wall motion. The aortic sinus 
diameter is normal for gender with normal ascending aorta 
diameter for gender. The aortic arch diameter is normal with a 
normal descending aorta diameter. The aortic valve leaflets (3) 
appear structurally normal. There is no aortic valve stenosis. 
There is no aortic regurgitation. The mitral valve leaflets 
appear structurally normal with no mitral valve prolapse. There 
is trivial mitral regurgitation. The pulmonic valve leaflets are 
normal. The tricuspid valve leaflets appear structurally normal. 
There is mild to moderate [___] tricuspid regurgitation. The 
estimated pulmonary artery systolic pressure is normal. There is 
no pericardial effusion. IMPRESSION: 1) No definite structural 
cardiac source of embolism identified. Bubble study not done due 
to age of patient
 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with HTN, past smoker, 
anxiety who is admitted to the Neurology stroke service with 
left arm weakness secondary to an acute ischemic stroke in the 
posterior limb of posterior limb of the right internal capsule. 
Her stroke etiology was felt to be most likely secondary to 
hypertensive event given elevated BP at 200 on admission.
Stroke workup was further notable for an unremarkable TTE, 
hemoglobin a1c 4.3, LDL 83. Her deficits improved during 
hospitalization, with some residual left sided weakness on 
discharge. She will continue physical therapy at rehab. 
Her hospital course was complicated by a new diagnosis of atrial 
fibrillation, and patient was subsequently started on apixaban 
due to high risk of cardioembolic stroke. 
Hypertension was another issue, initially requiring nicardipine 
drip in the ED to normalize blood pressure. Her home medication 
Losartan was initially held due to normal stroke protocol to 
allow for perfusion, and subsequently restarted at home dose of 
100mg. Renal artery ultrasound was done for concern for renal 
artery stenosis, and this was normal. She did not require 
additional antihypertensives, and was normotensive for >72 hours 
without PRN medications. Our suspicion that she will need 
further blood pressure control is high, and she will need to 
follow up closely with her PCP to maintain goal normotension. 
She also experienced diarrhea from ___, however diarrhea 
resolved spontaneously when stool studies were ordered. Patient 
was never febrile during this time, with no abdominal pain. 
She had a UA on presentation that was contaminated, and given no 
urinary symptoms she was not treated with antibiotics. 

Her stroke risk factors include the following:
1) HTN
2) past smoking history

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No
2. DVT Prophylaxis administered? (x) Yes - () No
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No
4. LDL documented? (x) Yes (LDL = ) - () No
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 100) (x) Yes - () No [if 
LDL if LDL >70, reason not given:
[ ] Statin medication allergy
[ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist
[ ] LDL-c less than 70 mg/dL]
6. Smoking cessation counseling given? () Yes - () No [reason 
(x) non-smoker - () unable to participate]
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No
9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given:
[ ] Statin medication allergy
[ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist
[ ] LDL-c less than 70 mg/dL
10. Discharged on antithrombotic therapy? (x) Yes [Type: () 
Antiplatelet - (x) Anticoagulation] - () No
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? (x) Yes - () No - () N/A

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Losartan Potassium 100 mg PO DAILY 
2. Terazosin 10 mg PO QHS 
3. Vitamin D ___ UNIT PO 1X/WEEK (FR) 
4. Cyanocobalamin 100 mcg PO DAILY 
5. Famotidine 40 mg PO DAILY 
6. ALPRAZolam 0.25 mg PO QHS 
7. Zolpidem Tartrate 10 mg PO QHS 

 
Discharge Medications:
1.  Apixaban 5 mg PO BID  
2.  Atorvastatin 40 mg PO QPM  
3.  ALPRAZolam 0.25 mg PO QHS  
4.  Cyanocobalamin 100 mcg PO DAILY  
5.  Famotidine 40 mg PO DAILY  
6.  Losartan Potassium 100 mg PO DAILY  
7.  Terazosin 10 mg PO QHS  
8.  Vitamin D ___ UNIT PO 1X/WEEK (FR)  
9.  Zolpidem Tartrate 10 mg PO QHS  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
acute ischemic stroke

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear ___,

You were hospitalized due to symptoms of left arm and left leg 
weakness resulting from an ACUTE ISCHEMIC STROKE, a condition 
where a blood vessel providing oxygen and nutrients to the brain 
is blocked by a clot. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms.

Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:

1. Hypertension (high blood pressure)
2. past and remote smoking history

We are changing your medications as follows:
start apixaban  5 mg PO/NG 1 tab TWICE DAILY
start atorvastatin 40 mg 1 tab DAILY

Please take your other medications as prescribed.

Please follow up with Neurology and your primary care physician 
as listed below.

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___